US04059587
Preparation of 7-[2-(3-Hydroxy-4-propoxybutyl)-1,4-dioxo-3-thiazolidinyl]heptanoic Acid
This compound is prepared essentially by the method described in Example 2 except that the 7-[2-(3-hydroxyoctyl)-4-oxo-3-thiazolidinyl]heptanoic acid is replaced by 7-[2-(3-hydroxy-4-propoxybutyl)-4-oxo-3-thiazolidinyl]heptanoic acid. Column chromatography of the resulting product provides the title compound as a t.l.c. homogeneous oil.

reactant | 7-[2-(3-hydroxyoctyl)-4-oxo-3-thiazolidinyl]heptanoic acid | OC(CCC1SCC(N1CCCCCCC(=O)O)=O)CCCCC | C18H33NO4S
reactant | 7-[2-(3-hydroxy-4-propoxybutyl)-4-oxo-3-thiazolidinyl]heptanoic acid | OC(CCC1SCC(N1CCCCCCC(=O)O)=O)COCCC | C17H31NO5S
product | 7-[2-(3-Hydroxy-4-propoxybutyl)-1,4-dioxo-3-thiazolidinyl]heptanoic Acid | OC(CCC1S(CC(N1CCCCCCC(=O)O)=O)=O)COCCC | C17H31NO6S
